US08735586B2
1,2-Diphenyl-1H-benzimidazole
A reaction tube containing 1-iodo-2-nitrobenzene (124 mg, 0.5 mmol), N-phenylbenzamide (118 mg, 0.6 mmol), CuI (4.8 mg, 0.025 mmol), N-methylethylenediamine (4.4 μL, 0.05 mmol), potassium phosphate (212 mg, 1 mmol) in dry toluene (1.5 mL) was purged with dry argon for 3 min. After heating at 100° C. for 18 h, the iron powder (10 mol.-eq.) and glacial acetic acid (5 mL) are directly added. Then the reaction mixture is heated at reflux for 30 min. An additional 10 mol.-eq. of iron powder are added and the reaction mixture is heated at reflux for further 30 min. The solvents were removed under reduced pressure and the crude was extracted with ethyl acetate against saturated sodium bicarbonate solution. The organic phase was dried and the solvent was removed on a rotary evaporator. Then the residue was purified by preparative HPLC, affording the title compound as a solid (90 mg, 67% yield).

reactant | 1-iodo-2-nitrobenzene | 0.5 mmol, 124 mg | IC1=C(C=CC=C1)[N+](=O)[O-] | C6H4INO2
reactant | N-phenylbenzamide | 0.6 mmol, 118 mg | C1(=CC=CC=C1)NC(C1=CC=CC=C1)=O | C13H11NO
reactant | N-methylethylenediamine | 0.05 mmol, 4.4 μL | CNCCN | C3H10N2
reactant | potassium phosphate | 1 mmol, 212 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | CuI | 0.025 mmol, 4.8 mg | [Cu]I
catalyst | iron | 10 mol | [Fe] | Fe
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 1,2-Diphenyl-1H-benzimidazole | 90 mg, 67% yield | C1(=CC=CC=C1)N1C(=NC2=C1C=CC=C2)C2=CC=CC=C2 | C19H14N2
